US08975254B2
c) N—((S)-2-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propyl)-5-(1-hydroxyethyl)isoxazole-3-carboxamide
Sodium borohydride (6.41 mg, 0.169 mmol) was added into a flask and the atmosphere was replaced with nitrogen. Dry ethanol was added and the reaction mixture was cooled to 0° C. (S)-5-acetyl-N-(2-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propyl)isoxazole-3-carboxamide (33.7 mg, 0.085 mmol) was added and the reaction mixture was warmed slowly to RT while stirring overnight. The crude product was cooled to 0° C., the pH was adjusted to about 3 and the mixture was evaporated. 5% of DCM/MeOH was added and the crude product was washed with 1M NaHCO3, water and dried. Yield 96%. 1H-NMR (400 MHz; CDCl3): δ 1.57-1.65 (m, 3H) 3.75-3.84 (m, 1H), 3.87-3.95 (m, 1H), 4.57-4.67 (m, 1H), 5.03 (q, 1H), 6.61 (d, 1H), 6.62 (s, 1H), 7.50 (d, 1H), 7.56-7.63 (m, 1H), 7.65-7.69 (2× s, 1H), 7.81 (dd, 1H), 8.01 (d, 1H).

reactant | Sodium borohydride | 0.169 mmol, 6.41 mg | [BH4-].[Na+]
reactant | (S)-5-acetyl-N-(2-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propyl)isoxazole-3-carboxamide | 0.085 mmol, 33.7 mg | C(C)(=O)C1=CC(=NO1)C(=O)NC[C@H](C)N1N=C(C=C1)C1=CC(=C(C=C1)C#N)Cl | C19H16ClN5O3
solvent | ethanol | C(C)O | C2H6O
product | N—((S)-2-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propyl)-5-(1-hydroxyethyl)isoxazole-3-carboxamide | Yield 96% | ClC=1C=C(C=CC1C#N)C1=NN(C=C1)[C@H](CNC(=O)C1=NOC(=C1)C(C)O)C | C19H18ClN5O3
